US07705040B2
p-Hydroxycinnamic acid (10.0 g, 61 mmol) was dissolved in 200 mL of acetone. Potassium carbonate (58.7 g, 213 mmol) was added at room temperature. After 15 mins, dimethyl sulfate (16.4 mL, 213 mmol) was added at room temperature under Argon and then heated under reflux under an Argon atmosphere for 8 hours. The solid was filtered off and then 50 mL of water was added to the filtrates. The solvent was evaporated under reduced pressure and the mixture was extracted two times with 200 mL of ethyl acetate. The combined organic layer was dried over sodium sulfate and then the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=1/10) to obtain methyl-4-methoxycinnamate [832-01-9] (11.7 g, 99% yield).

reactant | p-Hydroxycinnamic acid | 61 mmol, 10.0 g | OC1=CC=C(C=CC(=O)O)C=C1 | C9H8O3
reactant | Potassium carbonate | 213 mmol, 58.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 213 mmol, 16.4 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | acetone | 200 mL | CC(=O)C | C3H6O
product | methyl-4-methoxycinnamate | 11.7 g, 99% yield | COC(C=CC1=CC=C(C=C1)OC)=O | C11H12O3
